US03965127
1-(1,3-Dimethylureido)-3-(methylthio)propylphosphonic acid ##EQU12##
When a mixture of 0.5 mole each of 1,3-dimethylurea, triphenyl phosphite, and 3-methylthiopropionaldehyde in 100g of toluene is warmed to 75°, a reaction is initiated and the temperature increases rapidly to 120°. After further warming at 105° for 1 hr, the resulting yellow product has a 31P nmr signal at -28.2 ppm for the cyclic ester, 1,4-dimethyl-3-(2-methylthioethyl)-2-phenoxy-1,4,2-diazaphospholidin-5-one-2-oxide. The above product is then employed in a toluene solution from which byproduct phenol is removed by stripping to 110° /1 mm, after which one-third of the residue is dissolved in 75ml of acetonitrile and 10g of water, and this solution is refluxed for 3 hr. The reaction mixture is allowed to evaporate to dryness, and the residue is extracted with ether and then with hot acetonitrile and recrystallized twice from acetic acid to give a white solid: mp 164.5°-167°; 31P nmr (DMSO-d6) -21.4 ppm; 1H nmr 9.6 (broad, 2, OH), 4.5 (m, 1, PCH), 2.8 (s, NCH3), 2.6 (s, NCH3), 2.0 (s, SCH3), 1.9-2.6 (m, CH2CH2S).

reactant | 1,3-dimethylurea | 0.5 mole | CNC(=O)NC | C3H8N2O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | 3-methylthiopropionaldehyde | CCCC=S | C4H8S
reactant | 1,4-dimethyl-3-(2-methylthioethyl)-2-phenoxy-1,4,2-diazaphospholidin-5-one-2-oxide | CN1P(C(N(C1=O)C)CCSC)(OC1=CC=CC=C1)=O | C13H19N2O3PS
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(1,3-Dimethylureido)-3-(methylthio)propylphosphonic acid | CN(C(=O)NC)C(CCSC)P(O)(O)=O | C7H17N2O4PS
